US07851490B2
N-(1-{1-[3-(2,4-Dimethoxy-pyrimidin-5-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethyl)-formamide
This was prepared analogously from N-{1-[1-(3-bromo-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-formamide and 2,4-dimethoxypyrimidine-5-boronic acid in 81% yield. LC-ESI-HRMS of [M+H]+ shows 404.1729 Da. Calc. 404.172265 Da. dev. 1.6 ppm.

reactant | N-{1-[1-(3-bromo-phenyl)-1H-benzoimidazol-5-yl]-ethyl}-formamide | BrC=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)NC=O | C16H14BrN3O
reactant | 2,4-dimethoxypyrimidine-5-boronic acid | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
product | N-(1-{1-[3-(2,4-Dimethoxy-pyrimidin-5-yl)-phenyl]-1H-benzoimidazol-5-yl}-ethyl)-formamide | 81% yield | COC1=NC=C(C(=N1)OC)C=1C=C(C=CC1)N1C=NC2=C1C=CC(=C2)C(C)NC=O | C22H21N5O3
